US08222275B2
Step a)—6-Chloro-N-(4-chlorophenyl)pyridine-3-carboxamide
Commercially available 6-chloro-nicotinic chloride (56.8 mmol, 10 g) was dissolved in 50 ml of anhydrous CH2Cl2 and added dropwise to a solution of diisopropylethylamine (DIEA) (1.2 equivalents, 68.2 mmol, 11.67 ml) and 4-chloroaniline (1.2 equiv., 68.2 mmol, 8.70 g) in 50 ml CH2Cl2 at O° C. The mixture was stirred at room temperature for 20 h, then diluted with CH2Cl2 (200 ml) and washed with water (1×200 ml) and brine (1×100 ml). The organic layer was dried over sodium sulphate and concentrated. The crude was crystallized from diethyl ether to give 13 g of a white solid. Yield=86%. 1H NMR (CDCl3, 200 MHz) δ 7.35 (2H, d, J=8.8 Hz), 7.47 (1H, d, J=8.2 Hz), 7.58 (2H, d, J=8.8 Hz), 7.88 (1H, bs), 8.16 (1H, dd, J=8.4 Hz, J′=2.8 Hz), 8.84 (1H, d, J=2.4 Hz)

reactant | 6-chloro-nicotinic chloride | 56.8 mmol, 10 g | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | diisopropylethylamine | 68.2 mmol, 11.67 ml, 1.2 equivalents | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chloroaniline | 68.2 mmol, 8.70 g, 1.2 equiv. | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-Chloro-N-(4-chlorophenyl)pyridine-3-carboxamide | 13 g, Yield=86% | ClC1=CC=C(C=N1)C(=O)NC1=CC=C(C=C1)Cl | C12H8Cl2N2O
